US07576063B2
3-(β-D-Glucopyranosyloxy)-1-isopropyl-5-(4-methoxy-phenyl)-4-[(2,4-dimethoxyphenyl)methyl]-1H-pyrazole
To a suspension of 1-isopropyl-5-(4-methoxypheny)-4-[(2,4-dimethoxyphenyl)methyl]-1,2-dihydro-3H-pyrazole-3-one (0.090 g), acetobromo-α-D-glucose (0.48 g) and benzyl-(n-tributyl)ammonium chloride (0.037 g) in dichloromethane (2 mL) was added sodium hydroxide (5 mol/L, 0.47 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was purified by column chromatography on aminopropylated silica gel (eluent:tetrahydrofuran). The obtained semi purified 1-isopropyl-5-(4-methoxyphenyl)-4-[(2,4-dimethylphenyl)-methyl]-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole was dissolved in methanol (5 mL), and sodium methoxide (28% methanol solution, 0.45 mL) was added to the solution. The mixture was stirred at room temperature overnight. The solvent of the reaction mixture was removed, and methanol (0.5 mL) and 10% citric acid aqueous solution (5 mL) were added to the residue. The mixture was purified by solid phase extraction on ODS (washing solvent:water, eluent:methanol). Further purification by preparative reverse phase column chromatography (Shiseido CAPSELLPAC C18 UG80, 5μM, 20×50 mm, flow rate 30 mL/min linear gradient, water/methanol=90/10-10/90) gave the title compound (0.065 g).

reactant | 1-isopropyl-5-(4-methoxypheny)-4-[(2,4-dimethoxyphenyl)methyl]-1,2-dihydro-3H-pyrazole-3-one | 0.090 g | C(C)(C)N1NC(C(=C1C1=CC=C(C=C1)OC)CC1=C(C=C(C=C1)OC)OC)=O | C22H26N2O4
reactant | acetobromo-α-D-glucose | 0.48 g | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
reactant | sodium hydroxide | 5 mol/L, 0.47 mL | [OH-].[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 3-(β-D-Glucopyranosyloxy)-1-isopropyl-5-(4-methoxy-phenyl)-4-[(2,4-dimethoxyphenyl)methyl]-1H-pyrazole | 0.065 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NN(C(=C1CC1=C(C=C(C=C1)OC)OC)C1=CC=C(C=C1)OC)C(C)C | C28H36N2O9
